Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bloody bowel movements
 
Major Surgical or Invasive Procedure:
Upper endoscopy (___)

 
History of Present Illness:
 ___ with hx HTN presenting with hematemesis and BRBPR. He was 
at work 7 days ago and reaching into a recycling bin which was 
quite tall. He underestimated the depth of it and fell forward 
off of his feet, striking his right upper quadrant. He had 
immediate pain to the area and has been taking Aleve every night 
and using an ace wrap on the area. Last night he started having 
intense nausea, dizziness and diaphoresis. He had an episode of 
vomiting dark brown material with some blood mixed in. Since 
that time he has had 2 black stools with blood in. He notes his 
stools have been loose since his fall. No fevers or chills. He 
notes that he feels dizzy, especially when he stands but denies 
any chest pain or difficulty breathing. Not on anticoagulation. 
Naproxen qHS is only NSAID. No steroids. No alcohol since his 
injury.  
 In the ED, initial VS were T97, HR 109, BP 114/86, 100% RA  
 Exam notable for mild RUQ/epigastric pain to deep palpation. 
Rectal exam bright red blood/stool, grossly heme positive.  
 Labs showed Hb 11.4, HCT 33.2 Baseline HCT 47, BMP 
unremarkable.  
 Imaging showed CTA abdomen and pelvis with acute right lateral 
ninth rib fracture, no evidence of liver injury or GI bleed.  
 Received Pantoprazole 40mg and Morphine Sulfate 4mg.  
 Transfer VS were T97.8, HR 66, BP 139/80, RR 18, O2 100% RA  
 GI consulted, plan for NPO for possible EGD in AM.  
 Decision was made to admit to medicine for further management.  

 On arrival to the floor, patient reports mild RUQ tenderness.
 
Past Medical History:
 - Asthma  
 - GERD  
 - HTN  
 
Social History:
___
Family History:
Sister (___) had ? adenomas removed. 
 
Physical Exam:
ADMISSION EXAM
==============
 VS: 97.4 125 / 77 79 20 99 RA  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
 NECK: nontender supple neck, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, mild RUQ tenderness, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM
==============
VS: Tmax 98.3 BP 100-130/60-70s HR 60-70s RR ___ on 
RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, mild epigastric tenderness, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII grossly intact  
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:59AM BLOOD WBC-9.9 RBC-3.75* Hgb-11.4* Hct-33.2* 
MCV-89 MCH-30.4 MCHC-34.3 RDW-12.4 RDWSD-39.8 Plt ___
___ 11:59AM BLOOD Neuts-62.5 ___ Monos-5.0 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-6.17* AbsLymp-2.94 AbsMono-0.49 
AbsEos-0.20 AbsBaso-0.03
___ 11:59AM BLOOD ___ PTT-25.9 ___
___ 11:59AM BLOOD Plt ___
___ 11:59AM BLOOD Glucose-113* UreaN-29* Creat-0.9 Na-136 
K-4.5 Cl-100 HCO3-25 AnGap-16
___ 11:59AM BLOOD ALT-15 AST-19 AlkPhos-41 TotBili-0.3
___ 11:59AM BLOOD Lipase-40
___ 11:59AM BLOOD Albumin-4.1

MICRO
=====
___ CULTURE-FINALEMERGENCY WARD

IMAGING/PROCEDURES
==================
CTA abd/pelvis (___):  
There is an acute right lateral ninth rib fracture. No other 
acute fracture.  
No evidence of liver injury or GI bleed, as clinically 
questioned. No evidence of intra-abdominal or pelvic injury.  

Upper endoscopy (___):
Impression:Ulcer in the antrum
Duodenal ulcer
Erythema and congestion in the duodenal bulb and first part of 
the duodenum compatible with Mild duodenitis
Erosions in the first part of the duodenum and duodenal bulb
Otherwise normal EGD to third part of the duodenum

- Duodenal ulcers are the likely source of GI bleeding. 
- Please send H Pylori Stool Antigen, will treat if positive 
- Avoid NSAIDs
- Ok to advance diet to clears 
- No need of follow-up endoscopy as these ulcers are likely 
NSAIDs induced

DISCHARGE LABS
==============
___ 07:00AM BLOOD WBC-6.2 RBC-2.93* Hgb-9.1* Hct-26.2* 
MCV-89 MCH-31.1 MCHC-34.7 RDW-12.6 RDWSD-41.0 Plt ___
___ 07:00AM BLOOD Plt ___
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Mr. ___ is a ___ y/o man who presented with hematemesis, melena 
and BRBPR, found to have peptic ulcers on endoscopy, likely 
NSAID-induced. He remained hemodynamically stable throughout his 
hospitalization and did not require blood transfusion. He was 
advised to avoid NSAIDs and alcohol, and was discharged on his 
home acid suppressants. Hemoglobin on discharge was 9.1.

ACTIVE ISSUES
=============
# Peptic ulcer disease:
# Upper gastrointestinal bleed: Patient presented with 
hematemesis and melena, found to have nonbleeding peptic ulcers 
on EGD on ___, likely secondary to recent NSAID use. Advised 
patient to abstain from NSAIDs and alcohol. Continue home acid 
suppressants (omeprazole, ranitidine). PCP to check ___. pylori 
stool antigen.

CHRONIC/STABLE ISSUES
=====================
# s/p Right 9th rib fracture: Secondary to mechanical fall. 
Continued pain control with Tylenol and oxycodone as needed.
 
# Asthma: home albuterol PRN.  

TRANSITIONAL ISSUES
===================
[] Please check H/H at next PCP visit and ensure stabilization 
of anemia
[] Please check H. pylori stool antigen at next PCP ___ if 
positive should be treated with triple therapy
[] Continue Omeprazole 40 mg BID for 12 weeks; may return to 
omeprazole 20 mg BID thereafter
[] Patient to abstain from alcohol and NSAIDs
# CODE STATUS: Full (confirmed)
# CONTACT: Wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Albuterol Inhaler 1 PUFF IH DAILY:PRN shortness of breath 
3. Ranitidine 150 mg PO DAILY 
4. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth twice a day Disp #*10 
Capsule Refills:*0 
2.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*30 
Capsule Refills:*1 
3.  Albuterol Inhaler 1 PUFF IH DAILY:PRN shortness of breath  
4.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
5.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Upper gastrointestinal bleed
- Acute blood loss anemia

SECONDARY:
- Rib fracture
- Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You came to the hospital 
because you were having blood in your stools. You had a 
procedure called an endoscopy, which showed that you have ulcers 
in your stomach and small bowel, likely caused by taking 
non-steroidal anti-inflammatory drugs like Aleve or Ibuprofen. 
Please avoid excessive use of these medications in the future.

We wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___